US05149699
(6-Methylpyridin-3-yl)trifluoromethanesulfonate
To a stirred, cooled (0° C.) solution of 3-hydroxy-6-methylpyridine (14.0 g, 0.128 mol) in pyridine (70 mL) was added trifluoromethanesulfonic anhydride (39.8 g, 0.141 mol) dropwise. The mixture was stirred at room temperature for 5 h. Water was added and the mixture was extracted with ether. The extracts were washed with brine, dried (MgSO4), and concentrated to give 27.3 g (88%) of product as a brown oil.

reactant | 3-hydroxy-6-methylpyridine | 0.128 mol, 14.0 g | OC=1C=NC(=CC1)C | C6H7NO
reactant | trifluoromethanesulfonic anhydride | 0.141 mol, 39.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | (6-Methylpyridin-3-yl)trifluoromethanesulfonate | 27.3 g, 88% | CC1=CC=C(C=N1)OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
